US07662830B2
4. 4-[4-(5-bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine
Heat a mixture of 4-(4-fluoro-phenyl)-6-(2-(R)-methyl-piperazin-1-yl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine (400 mg, 1.13 mmol), 2,5-dibromo-3-methyl-pyridine (367 mg, 1.46 mmol), and DIEA (218 mg, 1.69 mmol) in DMA at 135° C. for 96 h. Dilute with water, extract with EtOAc, and wash with brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with EtOAc-Hexanes (1:10) to afford the title compound as a white solid.

reactant | 4-(4-fluoro-phenyl)-6-(2-(R)-methyl-piperazin-1-yl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine | 1.13 mmol, 400 mg | FC1=CC=C(C=C1)C1=NC(=NC(=C1)N1[C@@H](CNCC1)C)N1[C@@H](CCC1)C | C20H26FN5
reactant | 2,5-dibromo-3-methyl-pyridine | 1.46 mmol, 367 mg | BrC1=NC=C(C=C1C)Br | C6H5Br2N
reactant | DIEA | 1.69 mmol, 218 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 4-[4-(5-bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidine | BrC=1C=C(C(=NC1)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C)C | C26H30BrFN6
